US04395406
1-Allyl-5-chloropyrimid-2-one was prepared from 5-chloropyrimid-2-one as above in 64% yield. m.p. 130°-131° C. (acetone) (Found: C, 49.22; H, 4.13. Calc. for C7H7ClN2O: C, 49.28; H, 4.13).

reactant | 5-chloropyrimid-2-one | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | acetone | CC(=O)C | C3H6O
product | 1-Allyl-5-chloropyrimid-2-one | 64% yield | C(C=C)N1C(N=CC(=C1)Cl)=O | C7H7ClN2O
